US06613903B2
1H-NMR (300 MHz, CDCl3): δ 7.27 (d, 2H, J=9 Hz), 6.88 (d, 2H, J=9 Hz), 6.01 (s, 2H), 3.81 (s, 3H), 3.78 (d, 1H, J=14 Hz), 3.62 (d, 1H, J=14 Hz), 3.46 (m, 1H), 3.12-2.70 (m, 5H), 2.60 (m, 1H), 1.55 (s, 9H). 2-Amino-7-aminomethyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (70% pure, 0.2 g, 0.347 mmol) was dissolved in a mixture of anhydrous dichloromethane (5 ml) and triethylamine (72 μl) and cooled in an ice-bath and stirred under nitrogen. Benzoyl chloride (40 μl, 1.0 eq) was added dropwise and the reaction was stirred for 5 minutes, then warmed to ambient temperature and stirred for an additional 16 hours. The solvent was removed in vacuo and the residue dissolved in ethyl acetate (20 ml) and washed with 0.5 N hydrochloric acid (5 ml), saturated sodium bicarbonate (5 ml), and brine (5 ml). The organic phase was dried (MgSO4), filtered, and concentrated in vacuo, which afforded 0.15 g of crude 7-(benzoylamino-methyl)-2-amino-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester.

reactant | 2-Amino-7-aminomethyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 0.347 mmol, 0.2 g | C(C)(C)(C)OC(=O)C1=C(SC=2C(N(CCC21)CC2=CC=C(C=C2)OC)CN)N | C21H29N3O3S
reactant | Benzoyl chloride | 40 μl, 1.0 eq | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | triethylamine | 72 μl | C(C)N(CC)CC | C6H15N
product | 7-(benzoylamino-methyl)-2-amino-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 0.15 g | C(C)(C)(C)OC(=O)C1=C(SC=2C(N(CCC21)CC2=CC=C(C=C2)OC)CNC(C2=CC=CC=C2)=O)N | C28H33N3O4S
